US04925966
Synthesis of 2,4,5-trifluorobenzoic acid
A mixture of 2.20 g (0.01 mole) of 2,4,5-trifluoroisophthalic acid (dried under high vacuum). 1.0 ml of quinoline and 0.23 g of copper powder was heated on an oil bath at 200° C. After a while, the mixture liquefied and released a gas (ca. 280 ml by top purging). After the gas had been completely released, the liquefied mixture was cooled to room temperature, followed by addition of 15 ml of a mixture (1:1 by weight) of conc. HCl and water.

reactant | 2,4,5-trifluoroisophthalic acid | 0.01 mole, 2.20 g | FC1=C(C(=O)O)C=C(C(=C1C(=O)O)F)F | C8H3F3O4
reactant | quinoline | 1.0 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.23 g | [Cu] | Cu
product | 2,4,5-trifluorobenzoic acid | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
